US07507730B2
To sodium 4-methoxyphenylsulfamate (10.0 g 44 mmol) suspended in benzene (100 mL) was added PCl5 (9.2 g, 44 mmol) cautiously. The mixture was slowly warmed up and refluxed for 15 hrs. After cooling to rt., the mixture was filtered through a pad of Celite and solvent was removed from filtrate to leave a brown oil as 4-methoxyphenylsulfamoyl chloride, which was used in the next step without further purification.

reactant | sodium 4-methoxyphenylsulfamate | 44 mmol, 10.0 g | COC1=CC=C(C=C1)NS([O-])(=O)=O.[Na+]
reactant | PCl5 | 44 mmol, 9.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
product | 4-methoxyphenylsulfamoyl chloride | COC1=CC=C(C=C1)NS(=O)(=O)Cl | C7H8ClNO3S
